US07470689B2
b) 6-Chloro-4-(6-chloro-1H-benzimidazol-2-yl)-2H-pyridazin-3-one
A mixture of 6-chloro-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2-amino-5-chlorophenyl)amide and 6-chloro-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2-amino-4-chlorophenyl)amide (1.0 g; 1.67 mmol) is dissolved in 100 ml of glacial acetic acid and heated at 120° C. for 90 min. A precipitate separates out on cooling and is filtered off with suction and dried in vacuo at 40° C.

reactant | 6-chloro-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2-amino-5-chlorophenyl)amide | NC1=C(C=C(C=C1)Cl)NC(=O)C=1C(NN=C(C1)Cl)=O | C11H8Cl2N4O2
reactant | 6-chloro-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2-amino-4-chlorophenyl)amide | 1.67 mmol, 1.0 g | NC1=C(C=CC(=C1)Cl)NC(=O)C=1C(NN=C(C1)Cl)=O | C11H8Cl2N4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 6-Chloro-4-(6-chloro-1H-benzimidazol-2-yl)-2H-pyridazin-3-one | ClC=1C=C(C(NN1)=O)C1=NC2=C(N1)C=C(C=C2)Cl | C11H6Cl2N4O
